US06110962
11-(4-Hydroxy-phenyl)-benzo[b]naphtho[2,3-d]thiophen-8-ol
To a cold (-75° C.) solution of 8-methoxy-11-(4-methoxy-phenyl)-benzo[b]naphtho[2,3-d]thiophene (1.92 g, 5.18 mmol) in anhydrous methylene chloride was added a solution of boron tribromide (1 M in methylene chloride, 6.74 mL, 6.74 mmol, 1.3 eq) dropwise over a period of 18 minutes. After stirring in the cold for 3.5 hours and at ambient temperature for approximately 19 hours the reaction mixture was quenched with water (100 mL), diluted with methylene chloride (50 mL) and the organics were extracted with diethyl ether (1×100 mL, 1×75 mL). The extracts were combined, washed with brine, and combined with silica gel. The solvents were removed and the adsorbate was flash chromatographed (74/26 petrolem ether/ethyl acetate) and dried at 92° C. overnight to the title compound as an off-white solid (1.07 g, 91%): mp 233-235° C.; NMR (DMSO-d6); δ 9.91 (broad s, 1H), 9.77 (broad s, 1H), 8.30 (s, 1H), 7.88 (d, J=8 Hz, 1H), 7.40 (d, J=8 Hz, 1H), 7.35 (ddd, J=8, 8, 1 Hz, 1H), 7.23 (d, J=2 Hz, 1H), 7.15 (d, J=8 Hz, 2H), 7.09 (ddd, J=8, 8, 1 Hz, 1H), 7.06-7.00 (multiplet containing a doublet at 7.05, J=8 Hz, 3 H), 6.71 (d, J=8 Hz, 1H); MS (+FAB): [M+] 343; Anal. Calc. for C22H14O2S: C, 77.17, H, 4.12, N, 0.00. Found: C, 76.43, H, 3.82, N, 0.01.

reactant | 8-methoxy-11-(4-methoxy-phenyl)-benzo[b]naphtho[2,3-d]thiophene | 5.18 mmol, 1.92 g | COC1=CC2=CC3=C(C4=C(S3)C=CC=C4)C(=C2C=C1)C1=CC=C(C=C1)OC | C24H18O2S
reactant | boron tribromide | 6.74 mmol, 1 M, 6.74 mL, 1.3 eq | B(Br)(Br)Br | BBr3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 11-(4-Hydroxy-phenyl)-benzo[b]naphtho[2,3-d]thiophen-8-ol | OC1=CC=C(C=C1)C1=C2C=CC(=CC2=CC2=C1C1=C(S2)C=CC=C1)O | C22H14O2S
